US04831041
A mixture of 2-amino-6-methylbenzyl alcohol (0.274 g) and methyl isocyanate (0.11 g) in benzene (5.2 ml) was stirred at room temperature for 15 minutes. The resulting precipitates were collected by filtration and dried to give 6-methyl-2-(3-methyl ureido)benzyl alcohol (0.24 g).

reactant | 2-amino-6-methylbenzyl alcohol | 0.274 g | NC1=C(CO)C(=CC=C1)C | C8H11NO
reactant | methyl isocyanate | 0.11 g | CN=C=O | C2H3NO
solvent | benzene | 5.2 ml | C1=CC=CC=C1 | C6H6
product | 6-methyl-2-(3-methyl ureido)benzyl alcohol | 0.24 g | CC1=CC=CC(=C1CO)NC(=O)NC | C10H14N2O2
